US04692449
5,8-Quinolinedione
To a solution of 23.2 g of 5-hydroxyquinoline in 1600 ml of methanol in an ice bath was added a total of 36 g of potassium dihydrogen phosphate and 96 g of potassium nitroso disulfonate in 8.8 liters of water in five portions over a 1 hour period. The mixture was then stirred overnight at room temperature, followed by extraction with four 1500 ml portions of chloroform. The extracts were combined, dried, filtered through alumina and evaporated to dryness, giving 12.0 g of crude product. An analytical sample was prepared by crystallization from petroleum ether, mp 110° C.

reactant | 5-hydroxyquinoline | 23.2 g | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | potassium dihydrogen phosphate | 36 g | P(=O)(O)(O)[O-].[K+]
reactant | potassium nitroso disulfonate | 96 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
solvent | methanol | 1600 ml | CO | CH4O
solvent | water | 8.8 liters | O | H2O
product | 5,8-Quinolinedione | 12.0 g | N1=CC=CC=2C(C=CC(C12)=O)=O | C9H5NO2
